US04980291
Separation of the Enantiomers of 2-(4-Isobutyl-Phenyl)-Propan-1-ol
The following are obtained: 590 mg of (S)-2-(4- isobutyl-phenyl)-1-acetoxy-propane, as a colorless oil with [α]D20 -7.0° (C=1, benzene), ee 98%, H-NMR (90 MHz in COCl3) (ppm): 0.9 (6H, d, CHHD 3CHCHHD 3; 1.3 (3H, d, CHHD 3CH); 1.5-2.0 (1H, m, CH3CHH3); 2.1 (3H, s, COCH3 ; 2.4 (2H, d, C6H4CHHD 2); 3.1-2.7 (1H, m, C6H4CHHD 2); 4.1 (2H, d, CH2O); 7.0 (4H, s, aromatics); and 490 mg of (R)-2-(4-isopropyl-phenyl)-propan-1-ol as a colorless oil with [α]D20 +12.8° (C=1, CHCl3), ee 97%, H-NMR (90 MHz in COCl3)δ(ppm): 0.9 (6H, d, CHHD 3CHCHHD 3); 1.3 (3H, d, CHHD 3CH), 1.7-2.2 (1H, m. CH3CHH3); 2.5 (2H, d, C6H4CH2); 2.7-3.2 (1H, m, C6H4CH); 3.7 (2H, d, CH2O); 7.0 (4H, s, C6H4).

reactant | (S)-2-(4- isobutyl-phenyl)-1-acetoxy-propane | 590 mg | C(C(C)C)C1=CC=C(C=C1)[C@@H](COC(C)=O)C | C15H22O2
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | CH2O | C=O | CH2O
reactant | (R)-2-(4-isopropyl-phenyl)-propan-1-ol | 490 mg | C(C)(C)C1=CC=C(C=C1)[C@H](CO)C | C12H18O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-Isobutyl-Phenyl)-Propan-1-ol | C(C(C)C)C1=CC=C(C=C1)C(CO)C | C13H20O
